US07943607B2
3-[(Phenylmethyl)oxy]-5-[(3S)-tetrahydrofuran-3-yloxy]benzoic acid
A solution of lithium hydroxide monohydrate (3.78 g; 90.0 mmol) in water (50 mL) was added to a solution of methyl 3-[(phenylmethyl)oxy]-5-[(3S)-tetrahydrofuran-3-yloxy]benzoate (10.0 g, 30 mmol) in THF (100 mL) and the mixture stirred at RT for 18 hours. The THF was removed in vacuo, the aqueous residue treated with 1M hydrochloric acid (90.0 mL) then extracted with ethyl acetate (3×100 mL). The combined organic extracts were washed with brine, dried (MgSO4) and concentrated in vacuo to give the desired material (9.00 g). 1H NMR δ (CDCl3): 2.0-2.2 (m, 2H), 3.7-3.95 (m, 4H), 4.85 (m, 1H), 5.0 (s, 2H), 6.65 (m, 1H), 7.15 (m, 1H), 7.25-7.4 (m, 6H); m/z 315 (M+H)+.

reactant | lithium hydroxide monohydrate | 90.0 mmol, 3.78 g | O.[OH-].[Li+]
reactant | methyl 3-[(phenylmethyl)oxy]-5-[(3S)-tetrahydrofuran-3-yloxy]benzoate | 30 mmol, 10.0 g | C1(=CC=CC=C1)COC=1C=C(C(=O)OC)C=C(C1)O[C@@H]1COCC1 | C19H20O5
solvent | water | 50 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-[(Phenylmethyl)oxy]-5-[(3S)-tetrahydrofuran-3-yloxy]benzoic acid | 9.00 g | C1(=CC=CC=C1)COC=1C=C(C(=O)O)C=C(C1)O[C@@H]1COCC1 | C18H18O5
